Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:2]#[C:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1]>>[H:1][C:2]#[C:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-5.95926848824
[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6]([H:7])[H:8].[H:1][O:2][C:3]([O:4][H:5])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],4.847074172709999
[H:1][C:2]=[C:3]([H:4])[O:5][C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][H:4].[O:5][C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],1.13600444036
[O:1][O:2][C:3][C:4]([H:5])[H:6]>>[C:3]=[C:4]([H:5])[H:6].[O:1]=[O:2],1.51303140086
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11]>>[C:6]([O:7][H:8])=[C:9]([H:10])[H:11].[H:1][O:2][C:3]#[C:4][H:5],2.45991064164
[H:1][O:2][C:3]([H:4])([H:5])[C:6]1[O:7][C:8]1([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])[H:10],1.71004330127
[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.44531977387
[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17].[H:6]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17],-1.99150513832
[C:1]#[C:2][C:3]([H:4])=[C:5]([H:7])[H:8].[O:6]>>[C:1]#[C:2][C:3]([H:4])[C:5]([O:6])([H:7])[H:8],-2.9884175079000004
[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][H:11]>>[C:7]([H:8])([H:9])[O:10][H:11].[O:1][C:2]([H:3])([H:4])[C:5]#[C:6],5.86678520689
[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12](\[H:13])[C:14]([H:15])([H:16])[H:17].[H:1]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12](\[H:13])[C:14]([H:15])([H:16])[H:17],-5.11993152297
[C:6]#[C:7][H:8].[H:1][C:2][O:3][C:4]#[C:5]>>[H:1][C:2][O:3][C:4]#[C:5][C:6]#[C:7][H:8],-7.2035036359000015
[H:1][C:2]([H:3])([H:4])[O:5][O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])[H:4].[O:5][O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],2.85279525733
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[H:7].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])=[C:8]=[C:9]([H:10])[H:11],1.81242136602
[C:7]=[C:8]([H:9])[H:10].[O:1]=[C:2]([H:3])[O:4][C:5][H:6]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10],-6.1831167324
[H:13].[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-2.00228799368
[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1],5.95951544373
[C:9]([H:10])([H:11])[O:12][H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-1.29937639885
[C:3]([H:4])[O:5][C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11],-5.14046395839
[C:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[C:14]([H:15])([H:16])[H:17],-5.40361871135
[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6][H:7])[C:9]([H:10])([H:11])[O:12][H:13].[H:8],5.37973757884
[H:1][C:2]([H:3])([H:4])[C:5]1[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]1([H:14])[H:15]>>[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12])=[C:13]([H:14])[H:15],-1.51993132721
[O:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10]>>[C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10].[O:1]=[O:2],2.0328298145500003
[H:1].[O:2]=[C:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],-0.949163401567
[H:1][C:2]=[C:3]([H:4])[C:5][O:6][H:7]>>[C:3]([H:4])#[C:5][O:6][H:7].[H:1][C:2],4.38528033824
[H:12].[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-2.01121567866
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][O:10][H:11]>>[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])[C:8]#[C:9][O:10][H:11],0.589691230869
[H:12].[O:1]=[C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16]>>[O:1]=[C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.48059390208
